US04661477
2-Benzimidazolyl-ammoniumethyl phosphonate (compound of the formula (25))
To a mixture of 27.62 g. (0.02 moles) of diethyl phosphite and 20 ml. of water 13.31 g. (0.1 moles) of 2-amino-benzimidazole and 150 ml. of ethanol are added. The reaction mixture is refluxed for 5 hours. The solvent and the excess of diethyl phosphite are evaporated in vacuo. The crystalline substance obtained is dried over phosphorus pentoxide. Yield of the title compound is 95%.

reactant | diethyl phosphite | 0.02 moles | P(OCC)(OCC)[O-]
reactant | water | 13.31 g | O | H2O
reactant | 2-amino-benzimidazole | 0.1 moles | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
solvent | ethanol | C(C)O | C2H6O
product | 2-Benzimidazolyl-ammoniumethyl phosphonate | C(C)P([O-])([O-])=O.N1=C(NC2=C1C=CC=C2)[NH3+].N2=C(NC1=C2C=CC=C1)[NH3+] | InChI=1S/2C7H7N3.C2H7O3P/c2*8-7-9-5-3-1-2-4-6(5)10-7;1-2-6(3,4)5/h2*1-4H,(H3,8,9,10);2H2,1H3,(H2,3,4,5)
